US05380729
A mixture of 4-methyl-2-pyridine carboxaldehyde (1.0 g, 8.26 mmol), sulfolane (10 ml) and benzyl bromide (0.98 ml, 8.3 mmol) was stirred at room temperature for 16 hours, then was heated on a steam bath for 16 hours. Several portions of ethyl acetate were added to the reaction mixture and subsequently decanted to yield a residual gum. The gum was dissolved in water, washed with ether and evaporated to dryness to afford crude formyl-4-methyl pyridinium bromide.

reactant | 4-methyl-2-pyridine carboxaldehyde | 8.26 mmol, 1.0 g | CC1=CC(=NC=C1)C=O | C7H7NO
reactant | sulfolane | 10 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | benzyl bromide | 8.3 mmol, 0.98 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | formyl-4-methyl pyridinium bromide | [Br-].C(=O)[N+]1=CC=C(C=C1)C | InChI=1S/C7H8NO.BrH/c1-7-2-4-8(6-9)5-3-7;/h2-6H,1H3;1H/q+1;/p-1
